US04156777
1.79 g (10 mmol) of 6-amino-6-deoxy-D-glucopyranose is dissolved in a mixture of 10 ml methanol and 10 ml isopropanol, and to this solution is added formic acid dropwise, with stirring, to adjust the PH of the solution to 7.8. The resulting solution is then added dropwise to a solution prepared by dissolving 3.28 g (12 mmol) of o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate in a mixture of 10 ml tetrahydrofuran and 10 ml ethylacetate, while stirring, at 0°-5° C. over 30 minutes. The resultant mixture is stirred at the same temperature for a further 2 hours, and the thus reacted solution is concentrated at 30° C. and below, under reduced pressure. To the oily residue produced is added ethyl ether and the solution is left at 0°-5° C. overnight. The crystalline residue obtained is washed with chloroform and further with ethyl ether, dried under reduced pressure, and recrystallized from anhydrous ethanol-n-hexane (4:1) to give 2.71 g of 3-(D-glucopyranos-6-yl)-1-(2-chloroethyl)-1-nitrosourea. Yield 86.3%. mp 102°-103° C. (decomp.). [α]D20 +55° (C 0.5, methanol; the value of +55° reduced to +31° after 22 hours).

reactant | 6-amino-6-deoxy-D-glucopyranose | 10 mmol, 1.79 g | NC[C@@H]1[C@H]([C@@H]([C@H](C(O)O1)O)O)O | C6H13NO5
reactant | formic acid | C(=O)O | CH2O2
reactant | o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate | 12 mmol, 3.28 g | ClCCN(C(OC1=C(C=CC=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethylacetate | 10 ml | C(C)OC(C)=O | C4H8O2
product | 3-(D-glucopyranos-6-yl)-1-(2-chloroethyl)-1-nitrosourea | 2.71 g, Yield 86.3% | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(O)NC(N(N=O)CCCl)=O | C9H16ClN3O8
